US06498172B1
3-(3-{[(2,3-Dihydro-benzofuran-5-ylmethyl)-(4-fluoro-benzenesulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester
The title compound of Step A was prepared following the method described in Step A of Example 1 from 3-(3-{[(2,3-dihydro-benzofuran-5-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester, prepared in Step A of Example 12w, and 4-fluorobenzenesulfonyl chloride using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 7.79 (m, 2H), 7.14 (m, 3H), 7.03 (d, 1H), 6.88 (m, 2H), 6.79 (s, 1H), 6.71 (d, 1H), 6.58 (d, 1H), 4.51 (t, 2H), 4.25 (s, 2H), 4.21 (s, 2H), 3.64 (s, 3H), 3.08 (t, 2H), 2.80 (t, 2H), 2.50 (t, 2H).

reactant | 3-(3-{[(2,3-dihydro-benzofuran-5-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC=1C=CC2=C(CCO2)C1)=O | C20H23NO3
reactant | 4-fluorobenzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(2,3-Dihydro-benzofuran-5-ylmethyl)-(4-fluoro-benzenesulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(S(=O)(=O)C1=CC=C(C=C1)F)CC=1C=CC2=C(CCO2)C1)=O | C26H26FNO5S
